US05602252
9-(1H-Imidazol-1-yl)methyl-4-[(2-phenylethyl)amino]imidazo[5,1-h]-pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with N-benzylphenylethylamine, followed by reaction with 2-(1H-imidazol-1-yl)methylimidazole, reduction with tin (II) chloride, cyclization with carbonyldiimidazole, and hydrogenation with palladium on carbon in ethanol containing 1.1 eq. NaOH at 50 psi and 50° C.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | N-benzylphenylethylamine | C(C1=CC=CC=C1)NCCC1=CC=CC=C1 | C15H17N
reactant | 2-(1H-imidazol-1-yl)methylimidazole | N1(C=NC=C1)CC=1NC=CN1 | C7H8N4
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanol | 1.1 eq | C(C)O | C2H6O
reactant | NaOH | [OH-].[Na+]
catalyst | palladium on carbon | [Pd] | Pd
product | 9-(1H-Imidazol-1-yl)methyl-4-[(2-phenylethyl)amino]imidazo[5,1-h]-pteridin-6(5H)-one | N1(C=NC=C1)CC1=NC=C2C(NC=3C(=NC=NC3N21)NCCC2=CC=CC=C2)=O | C20H18N8O
